US04287340
10-Oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid
Chlorotrimethylsilane (2.35 ml, 0.018 mol) is added to a cooled (ice bath) solution of 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]-thieno[3,2-d]pyrimidine-7-carboxylic acid (4.5 g, 0.018 mol) in pyridine (35 ml) under nitrogen. The mixture is stirred at ice bath temperature for 1 hour and then allowed to warm at room temperature. N-chlorosuccinimide (2.44 g, 0.018 mol) is added and the mixture is heated at 95° C. for 20 minutes. The mixture is cooled, diluted with ice water (5 ml) and stirred for 15 minutes. The precipitate is filtered, washed with boiling acetone and dried to give the product (3.5 g.) mp 335° C. (dec).

reactant | Chlorotrimethylsilane | 0.018 mol, 2.35 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]-thieno[3,2-d]pyrimidine-7-carboxylic acid | 0.018 mol, 4.5 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)O)CCS2 | C11H8N2O3S
reactant | N-chlorosuccinimide | 0.018 mol, 2.44 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
product | 10-Oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid | O=C1C=2C(N=C3N1C=C(C=C3)C(=O)O)=CSC2 | C11H6N2O3S
